US04332944
Two grams (7.6 mmol) of 2-chloro-5-(4-nitrophenoxy) methylpyridine and 4 grams (76.0 mmol) of ammonium chloride in 40 ml of ethanol and 20 ml of water are heated to 60°, after which 2.1 grams (38.0 mmol) of iron powder is added in small portions over 15 minutes. The mixture is heated under reflux for 2 hours. The reaction is cooled and stripped, and the residue is taken up in ether, washed with water, dried over sodium sulfate and stripped to yield 2-chloro-5-(4-aminophenoxy)methylpyridine.

reactant | 2-chloro-5-(4-nitrophenoxy) methylpyridine | 7.6 mmol, Two grams | ClC1=NC=C(C=C1)COC1=CC=C(C=C1)[N+](=O)[O-] | C12H9ClN2O3
reactant | ammonium chloride | 76.0 mmol, 4 grams | [Cl-].[NH4+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
solvent | ether | CCOCC | C4H10O
catalyst | iron | 38.0 mmol, 2.1 grams | [Fe] | Fe
product | 2-chloro-5-(4-aminophenoxy)methylpyridine | ClC1=NC=C(C=C1)COC1=CC=C(C=C1)N | C12H11ClN2O
